Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"There was ___ speaking with two large soldiers outside my 
apartment.  They were looking in through the peephole.  There 
was a riot going on next door." 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ y/o former NFL player with no known past 
psychiatric history BIBA after calling the police to report that 
there was ___ outside the apartment he was staying in.

Pt was previously living with his daughter in ___ but has 
been staying in the apartment of a ___, 
for ~1 month in order to give his daughter "a break" following 
ongoing disagreements regarding her boyfriend. Pt believes 
___ is dealing drugs and says she has threatened to withhold 
his belongings unless he gives her more money.

Pt reports that on the evening prior to admission, he went to 
bed at his usual early hour, about 7 pm.  People continued to 
leave and arrive to the apt. and go into ___ room.  In the 
middle of the night, he watched one of these night visitors 
change into a ___ outfit, with fighting gloves and a vest 
equipped with a machete, sword and other implements of 
destruction.  He noticed this person outside the apartment, 
speaking with two large soldiers and he became concerned for his 
and ___ safety.  He went into her room when he was unable 
to awaken her by knocking, to warn her. He states he put a large 
kitchen knife next to the couch in order to protect himself. She 
apparently called pt's friend ___, who spoke to pt and told 
him he was hallucinating and to go back to bed. ___ reports a 
similar incident when the patient was staying at his house, and 
came into his room at 3 am for unexplained reasons.  

Pt denied previous episodes of paranoid ideation or 
hallucinations of any kind.  However, while in the ED, he 
reported VH to a nurse, thinking that "4 little people are 
standing on a balcony with 3 big people below."  He pointed at 
another ED patient room across from him.

In the ED, pt was noted to have cognitive deficits, scoring 
___ on MOCA - deficits trails b, cube drawing, clock drawing, 
serial 7s, abstraction, delayed recall. Also had mild 
cogwheeling rigidity bilaterally, needing frequent redirection.
 
Past Medical History:
PPH:
No known psychiatric history or treatment of any sort.
Pt. denies current SI/HI or plan.

PMH:
* IDDM
* s/p broken back due to a basketball injury in h.s.
* Pt denies h/o head injury, but he was a ___ football player in 
the ___ (corroborated by ___
* PCP:  Dr ___ ___, ___
 
Social History:
Substance Abuse Hx:
Pt. initially reported "drink couple of beers while watching 
football on the w/e. ___ reported that pt. ha a h/o drinking 
heavily, up to 1 quart of rum daily.  When told this, pt. denied 
drinking ___ last w/e. Pt admitted to x1 detox, which ___ 
arranged when pt. returned to the ___ from the ___. Pt 
denies illicits.

Social History:
___
Family History:
None known.
 
Physical Exam:
Physical Exam:
General- WDWN AA male, NAD, beard well groomed
Skin- Tanned, no rashes or lesions noted
HEENT- NTAC, MMM, PEARL
Lungs- CTAB, normal work of breathing
CV- RRR, no m/r/g
Abdomen: Soft to palpate. No masses felt. +BS
Extremities- WWP, strong peripheral pulses
Neuro- CN ___ intact. ___ motor strength throughout. Intact to
light touch throughout. Normal coordination on finger to nose
testing throughout. 

Neuropsychiatric Examination:
  *Appearance: Middle age AA male, well groomed
  Behavior: At one point in the interview the patient sat up and
did a twirl and then sat down again without explanation.
  *Mood and Affect: "Upset" , Anxious and Restless
  *Thought process: Circumstantial.
  *Thought Content: Preoccupied on the ___ but not paranoid
about such. He is unsure what the ___ wanted with him. He 
feels
safe w/o SI or HI
  *Judgment and Insight: poor/poor
  Cognition:
    *Attention: ___, knows it is ___ in ___
    *Memory: ___ immediate and ___ at 5 mins
    *Fund of knowledge: Good
    Days of week backwards. "A B C D E F ___, ___
    Calculations: Could not calculate # quarters in $2.25
    Abstraction: Understands grass is always greener
    *Speech: RRR
 
Pertinent Results:
___ 05:46AM BLOOD WBC-5.5 RBC-4.41* Hgb-14.2 Hct-42.0 
MCV-95 MCH-32.2* MCHC-33.7 RDW-12.3 Plt ___
___ 05:46AM BLOOD Neuts-44.0* ___ Monos-8.4 
Eos-5.5* Baso-1.2
___ 01:30PM BLOOD UreaN-20 Creat-1.1
___ 06:55AM BLOOD Glucose-139* UreaN-25* Creat-1.3* Na-135 
K-3.7 Cl-99 HCO3-26 AnGap-14
___ 05:46AM BLOOD Glucose-156* UreaN-23* Creat-1.5* Na-136 
K-3.3 Cl-94* HCO3-27 AnGap-18
___ 06:55AM BLOOD ALT-22 AST-25 AlkPhos-59 TotBili-0.6
___ 01:30PM BLOOD Mg-1.5*
___ 06:55AM BLOOD Calcium-8.9 Phos-3.6 Mg-1.2* Iron-57 
Cholest-159
___ 06:55AM BLOOD Triglyc-136 HDL-44 CHOL/HD-3.6 LDLcalc-88
___ 06:55AM BLOOD TSH-1.2
___ 06:55AM BLOOD calTIBC-274 Ferritn-1068* TRF-211
___ 05:46AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:45PM URINE bnzodzp-POS barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 12:45PM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:45PM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-TR Bilirub-SM  Urobiln-4* pH-5.5 Leuks-TR
___ 12:45PM URINE RBC-1 WBC-4 Bacteri-FEW Yeast-NONE Epi-<1

HEAD CT w/o CONTRAST:
FINDINGS:
There is no evidence of hemorrhage, edema, mass effect or 
infarction. Prominent ventricles and sulci suggest age-related 
atrophy.  The basal cisterns appear patent and there is 
preservation of gray-white differentiation.
 
The visualized paranasal sinuses demonstrate mucosal thickening 
of the left maxillary, bilateral sphenoid and left ethmoid 
sinuses.  The mastoid air cells and middle ear cavities are 
clear.  The globes are intact.
 
IMPRESSION:
No acute intracranial process.
 
Brief Hospital Course:
PSYCHIATRIC:
# Hallucinations / Delusions:
Mr ___ is a ___ y/o former NFL player with no known past 
psychiatric history apart from alcohol abuse who was BIBA after 
calling the police to report that there was ___ in the 
apartment he was staying in. Pt was found to have cognitive 
impairment, with a MOCA score of ___ in the ED. In addition to 
presumed head traumas from football, may have also had toxic 
exposures from work in pest ___. Alcohol could also be 
contributing to his cognitive impairments. Head CT w/ no acute 
intracranial process. TSH wnl. No family hx of mental illness.

On the inpatient unit, pt initially continued to state that a 
___ had been in the apartment, though by discharge he 
acknowledged that such a situation would be unlikely, and he 
otherwise did not appear at all thought disordered. The 
psychotic symptoms that brought him in to the hospital most 
likely are the result of a dementia and/or delirium, rather than 
a primary psychotic illness. He was started on risperidone, 
which he tolerated.

As part of the workup for pt's neuropsychiatric problems 
(especially in the setting of prior work in pest ___), a 
heavy metal panel was ordered, which is still pending at the 
time of discharge. To follow up on the results of the panel, 
please call ___.

GENERAL MEDICAL:
# ___:  Unclear baseline, but Cr trended down from 1.5 -> 1.3 -> 
1.1.

MILIEU:
Pt was quite social but did not attend many groups. 

LEGAL:
___
RISK ASSESSMENT:
Low acute risk of harm to self/others. Risk factors include age, 
sex, cognitive impairment, and alcohol abuse. He denies any 
SI/HI or any prior suicide attempts, though, and was quite calm 
and pleasant on the unit.

DISPO:
Pt plans to stay in the ___ area with his friend until this 
weekend, then fly back to ___ to stay with his daughter. Prior to 
returning to ___, he will follow up with his PCP's office. Team 
recommended AA meetings in the ___ area.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Levemir *NF* (insulin detemir) 46 Units Subcutaneous qAM 
3. Lisinopril 10 mg PO DAILY 
4. Simvastatin 20 mg PO QHS 
5. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Simvastatin 20 mg PO QHS 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Levemir *NF* (insulin detemir) 46 Units Subcutaneous qAM 
6. Risperidone 2 mg PO HS 
RX *risperidone 2 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I:   Cognitive Disorder NOS
          Alcohol Abuse
Axis II:  Deferred
Axis III: IDDM, HTN, HL
Axis IV:  Being away from home environment
Axis V:   43

 
Discharge Condition:
Condition: Stable
Ambulatory Status: Independent
MSE: Casually dress, appropriately groomed. Mildly anxious about 
wanting to be discharged. Affect full range. Associations 
intact. Denies SI/HI. Denies AH/VH. No evidence of response to 
internal cues. Alert, grossly oriented, attends to conversation.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to the hospital after seeing bizarre things 
such as ninjas. As we discussed, we believe that your mind was 
playing tricks on you in those moments. Fortunately, those 
experiences resolved. The most important factors for staying 
healthy and stable will be avoiding alcohol and having regular 
follow-up with your primary care doctor.

-___ follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___